US04264497
5.7 g of 2,3-dihydro-3-hydroxymethyl-2-phenyl-1,5-benzothiazepin-4(5H)-one prepared as described in Reference Example 1 and 1.6 g of pyridine were dissolved in 30 ml of benzene, and 3.6 g of thionyl chloride was added to the solution, followed by heating under refluxing for 1 hour. The solvent was then distilled off and water was added to the residue. The precipitated crystals were filtered, washed with methanol and recrystallized from benzene to obtain 5.1 g of 3-chloromethyl-2,3-dihydro-2-phenyl-1,5-benzothiazepin-4(5H)-one as colorless needles having a melting point of 233° C. (with decomposition).

reactant | 2,3-dihydro-3-hydroxymethyl-2-phenyl-1,5-benzothiazepin-4(5H)-one | 5.7 g | OCC1C(SC2=C(NC1=O)C=CC=C2)C2=CC=CC=C2 | C16H15NO2S
reactant | pyridine | 1.6 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 3.6 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 3-chloromethyl-2,3-dihydro-2-phenyl-1,5-benzothiazepin-4(5H)-one | 5.1 g | ClCC1C(SC2=C(NC1=O)C=CC=C2)C2=CC=CC=C2 | C16H14ClNOS
